US07868019B2
200 mL of a toluene solution containing 20.00 g of 1-(2-bromo-4-pyridyl)-2,3-bis(methoxycarbonyl)-6,7-dimethoxy-naphthalene was sonicated under reduced pressure, then, 975 mg of palladium acetate, 1009 mg of tri-tert-butyl-phosphonium tetrafluoroborate, 13.72 g of (4S)-4-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydroquinoline and 6.26 g of sodium tert-butoxide were added to the mixture under room temperature, and after replacing the atmosphere with nitrogen, the mixture was stirred at 100° C. for 4 hours. After cooling the mixture by allowing to stand, 100 mL of a saturated aqueous ammonium chloride solution, 100 mL of water and 100 mL of ethyl acetate were added to the reaction mixture, and said mixture was filtered with Celite. Celite was washed with 100 mL of ethyl acetate, and the organic layer was separated. Said organic layer was washed with 100 g of 20% saline solution, dried over anhydrous magnesium sulfate and then concentrated. The resulting residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=5:1 to 4:1) to obtain 22.31 g (Yield: 80%) of 1-[2-[(4S)-4-(tert-butyldimethyl-silyloxy)-1,2,3,4-tetrahydroquinolin-1-yl]-4-pyridyl]-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalene.

reactant | 1-(2-bromo-4-pyridyl)-2,3-bis(methoxycarbonyl)-6,7-dimethoxy-naphthalene | 20.00 g | BrC1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)C(=O)OC)C(=O)OC | C21H18BrNO6
reactant | tri-tert-butyl-phosphonium tetrafluoroborate | 1009 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | (4S)-4-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydroquinoline | 13.72 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CCNC2=CC=CC=C12 | C15H25NOSi
reactant | sodium tert-butoxide | 6.26 g | CC(C)([O-])C.[Na+]
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
catalyst | palladium acetate | 975 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-[(4S)-4-(tert-butyldimethyl-silyloxy)-1,2,3,4-tetrahydroquinolin-1-yl]-4-pyridyl]-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalene | 22.31 g, Yield: 80% | C(C)(C)(C)[Si](O[C@H]1CCN(C2=CC=CC=C12)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)C(=O)OC)C(=O)OC)(C)C | C36H42N2O7Si
